* C:\users\mmms\Documents\PCB\ECTdevice\res\gain_amplification.asc
* Generated by LTspice 24.1.8 for Windows.
X§U1 PWR N001 v+ 0 OUT opamp2
V1 PWR 0 SINE(0 3.3 10 0)
R1 0 N001 1k
R3 OUT N001 100k
V2 v+ 0 5v
.tran 0 2s 0
.backanno
.end
