* C:\users\mmms\Documents\PCB\ECTdevice\spice\InstrumentationAmplification.asc
* Generated by LTspice 24.1.8 for Windows.
V1 N003 0 12
Vin N011 0 SINE(0 1 10Meg) Rser=50
R1 N004 0 499
R2 N005 N004 499
X§U1 N012 N004 +V 0 N005 AD8065
V2 0 0 -12
Rload N005 +IN 100
R4 N012 N011 249
C1 N005 N004 2.2p
V3 +V 0 12
R3 -IN OUT 8200
R5 0 -IN 2000
C2 -IN OUT 22p
R6 OUT 0 2000
X§U3 +IN -IN +V 0 OUT FLG OPA552
R8 +V N003 22
X§U2 +IN_PROBE -IN_PROBE N008 0 N006 0 N009 N010 INA826
R7 N009 N010 5.49k
V4 +IN_PROBE 0 SINE(0 0.1 20000000 0)
V5 -IN_PROBE 0 SINE(0.15 0.05 35000000 9)
C3 N008 0 100n
R9 N008 N007 100
R10 N006 0 1000
V6 N007 0 5
* Precision high-speed op-amp,\n used here as the front-end amplifier to boost and \ncondition the low-level input signal.
* High-voltage, high-current op-amp, \nused as the driver/output stage\n to deliver the conditioned signal to the load.
* INSTRUMENTATION AND AMPLIFICATION
.include INA826.lib
* DRIVE COIL SIGNAL GENERATION
.tran 2u
* The primary goal of the INA826 is to collect signals from the probe and \nsets the signal gain for instrumentation by the ESP32 ADC
.lib AD8065.lib
.lib C:\users\mmms\Documents\PCB\ECTdevice\spice\INA826.lib
.lib C:\users\mmms\Documents\PCB\ECTdevice\spice\OPA552.LIB
.backanno
.end
